US08076336B2
Methyl 3-tert-butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]benzoate
Methyl 3-tert-butyl-5-hydroxymethylbenzoate (3.5 g) was alkylated analogously to O5.059 with 2-(2-bromoethoxy)tetrahydropyran (3.95 g). However, silica gel chromatography (n-heptane/EA 4:1) was carried out for purification. 2.28 g of the title compound were obtained.

reactant | Methyl 3-tert-butyl-5-hydroxymethylbenzoate | 3.5 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)CO | C13H18O3
reactant | 2-(2-bromoethoxy)tetrahydropyran | 3.95 g | BrCCOC1OCCCC1 | C7H13BrO2
product | Methyl 3-tert-butyl-5-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]benzoate | 2.28 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)COCCOC1OCCCC1 | C20H30O5
